US05691349
Triflic anhydride (1.63 ml) was added dropwise to a mixture of 2-allyl-4-nitrophenol (1.79 g) and 2,6-dimethylpyridine (1.18 g) in dry dichloromethane (15 ml) at -20° C. under an atmosphere of argon. The reaction mixture was allowed to reach ambient temperature over 3 hours. The mixture was partitioned between water and dichloromethane. The organic phase was separated, washed with 1M aqueous sodium hydroxide solution, water, dried (MgSO4) and evaporated to give 2-allyl-4-nitrophenyl triflate (2.71 g) as an oil; microanalysis, found: C, 38.7; H, 2.6; N, 4.2%; C10H8F3NO5S requires: C, 38.6; H, 2.59; N, 4.5%; NMR: 3.7(2H,d), 5.19-5.35(2H,m), 5.97-6.17(1H,m), 7.84(1H,d), 8.36-8.55(2H,m); m/z 311(M).

reactant | Triflic anhydride | 1.63 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-allyl-4-nitrophenol | 1.79 g | C(C=C)C1=C(C=CC(=C1)[N+](=O)[O-])O | C9H9NO3
reactant | 2,6-dimethylpyridine | 1.18 g | CC1=NC(=CC=C1)C | C7H9N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-allyl-4-nitrophenyl triflate | 2.71 g | O(S(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1)[N+](=O)[O-])CC=C | C10H8F3NO5S
